US07612064B2
1-(m-Chlorobenzenesulfonyl)-2-(3,4-methylenedioxyphenyl)-4-(N-[3-{4-methylpiperazinyl}-propyl]-aminomethyl)-pyrrole
1-(m-Chlorobenzenesulfonyl)2-(3,4methylenedioxyphenyl)-pyrrole-4-carboxaldehyde and 1-(3-aminopropyl)-4-methylpiperazine are condensed and reduced with NaBH(OAc)3 following the procedure of Example 2. HPLC: RT (program 1) 3.26, MS: 531.0.

reactant | 1-(m-Chlorobenzenesulfonyl)2-(3,4methylenedioxyphenyl)-pyrrole-4-carboxaldehyde | ClC=1C=C(C=CC1)S(=O)(=O)N1C(=CC(=C1)C=O)C1=CC2=C(C=C1)OCO2 | C18H12ClNO5S
reactant | 1-(3-aminopropyl)-4-methylpiperazine | NCCCN1CCN(CC1)C | C8H19N3
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(m-Chlorobenzenesulfonyl)-2-(3,4-methylenedioxyphenyl)-4-(N-[3-{4-methylpiperazinyl}-propyl]-aminomethyl)-pyrrole | ClC=1C=C(C=CC1)S(=O)(=O)N1C(=CC(=C1)CNCCCN1CCN(CC1)C)C1=CC2=C(C=C1)OCO2 | C26H31ClN4O4S
